US07737157B2
Potassium carbonate (1.5 mmol) was added to a solution of 6-hydroxy-N,2-dimethylbenzofuran-3-carboxamide (1 mmol) in 5 ml DMF. After 30 mins, 2,4-dichloropyrimidine (1 mmol) was added and the reaction mixture was stirred overnight at 60° C. Water was added. The resultant solid was filtered, washed with water, and dried to give 6-(2-chloropyrimidin-4-yloxy)-N,2-dimethylbenzofuran-3-carboxamide in a yield of 82%, as a solid, which was used in the next step without further purification.

reactant | Potassium carbonate | 1.5 mmol | C([O-])([O-])=O.[K+].[K+]
reactant | 6-hydroxy-N,2-dimethylbenzofuran-3-carboxamide | 1 mmol | OC1=CC2=C(C(=C(O2)C)C(=O)NC)C=C1 | C11H11NO3
reactant | 2,4-dichloropyrimidine | 1 mmol | ClC1=NC=CC(=N1)Cl | C4H2Cl2N2
reactant | Water | O | H2O
solvent | DMF | 5 ml | CN(C)C=O | C3H7NO
product | 6-(2-chloropyrimidin-4-yloxy)-N,2-dimethylbenzofuran-3-carboxamide | yield of 82% | ClC1=NC=CC(=N1)OC1=CC2=C(C(=C(O2)C)C(=O)NC)C=C1 | C15H12ClN3O3
